** sch_path: /foss/designs/CapiMagics/sch/full_4x2_lvs.sch
.subckt full_4x2_lvs avdd avss Vin Vin_neg vpre1 vpre2 vpost1 vpost2 vw11 vw42
*.PININFO avdd:B avss:B Vin:I Vin_neg:I vpre1:O vpre2:O vpost1:O vpost2:O vw11:O vw42:O
x1 vpre1 vpost1 nvpost1 nvpre1 vpost2 vpre2 nvpre2 nvpost2 avdd vpre3 avss nvpre3 vpre4 A nvpre4 B net1 net2 vw11 vw42
+ stdp_4x2_lvs
x8 avdd avss Vin Vin_neg net3 net4 net5 net6 encoder
x9 avdd B A avss current_mirror
x10 avdd avss net3 vpre1 nvpre1 net4 vpre2 nvpre2 net5 vpre3 nvpre3 vpre4 net6 nvpre4 layer_input
x2 avdd avss net2 vpost1 nvpost1 vpost2 net1 nvpost2 layer_output
.ends

* expanding   symbol:  stdp/stdp_4x2_lvs.sym # of pins=20
** sym_path: /foss/designs/CapiMagics/sch/stdp/stdp_4x2_lvs.sym
** sch_path: /foss/designs/CapiMagics/sch/stdp/stdp_4x2_lvs.sch
.subckt stdp_4x2_lvs vpre1 vpost1 nvpost1 nvpre1 vpost2 vpre2 nvpre2 nvpost2 avdd vpre3 avss nvpre3 vpre4 A nvpre4 B ifwd2 ifwd1
+ vw11 vw42
*.PININFO ifwd1:B ifwd2:B vpre1:I nvpre1:I vpre2:I nvpre2:I vpre3:I nvpre3:I vpre4:I nvpre4:I vpost1:O nvpost1:O vpost2:O
*+ nvpost2:O avdd:B avss:B A:B B:B vw11:O vw42:O
x1 avdd avss nvpre1 nvpost1 vpre1 vpost1 A B B A vw11 net7 stdp_lvs
x2 avdd avss nvpre2 nvpost1 vpre2 vpost1 A B B A net3 net7 stdp_lvs
x3 avdd avss nvpre3 nvpost1 vpre3 vpost1 A B B A net2 net7 stdp_lvs
x4 avdd avss nvpre4 nvpost1 vpre4 vpost1 A B B A net1 net7 stdp_lvs
x5 avdd avss nvpre1 nvpost2 vpre1 vpost2 A B B A net4 net8 stdp_lvs
x6 avdd avss nvpre2 nvpost2 vpre2 vpost2 A B B A net6 net8 stdp_lvs
x7 avdd avss nvpre3 nvpost2 vpre3 vpost2 A B B A net5 net8 stdp_lvs
x8 avdd avss nvpre4 nvpost2 vpre4 vpost2 A B B A vw42 net8 stdp_lvs
x9 net7 avdd ifwd1 avss Current-limit
x10 net8 avdd ifwd2 avss Current-limit
* noconn #net3
* noconn #net4
* noconn #net6
* noconn #net5
* noconn #net2
* noconn #net1
.ends


* expanding   symbol:  encoder/encoder.sym # of pins=8
** sym_path: /foss/designs/CapiMagics/sch/encoder/encoder.sym
** sch_path: /foss/designs/CapiMagics/sch/encoder/encoder.sch
.subckt encoder Vdd Vss Vin Vin_neg Iex_1_i Iex_2_i Iex_3_i Iex_4_i
*.PININFO Vdd:B Vss:B Vin:I Vin_neg:I Iex_1_i:O Iex_4_i:O Iex_2_i:O Iex_3_i:O
M1 x Vin a Vss nfet_03v3 L=10u W=0.5u nf=1
M2 y Vin_neg a Vss nfet_03v3 L=10u W=0.5u nf=1
M3 x x Vdd Vdd pfet_03v3 L=0.28u W=2u nf=1
M4 y y Vdd Vdd pfet_03v3 L=0.28u W=2u nf=1
M5 Iex_2_i x Vdd Vdd pfet_03v3 L=1.86u W=0.93u nf=1
M7 Iex_3_i y Vdd Vdd pfet_03v3 L=1.86u W=0.93u nf=1
M9 a net1 Vss Vss nfet_03v3 L=0.28u W=0.5u nf=1
M10 net1 net1 Vss Vss nfet_03v3 L=0.28u W=0.5u nf=1
M11 net1 net1 Vdd Vdd pfet_03v3 L=0.28u W=0.5u nf=1
M6 Iex_4_i y Vdd Vdd pfet_03v3 L=1.86u W=0.93u nf=1
M8 Iex_1_i x Vdd Vdd pfet_03v3 L=1.86u W=0.93u nf=1
.ends


* expanding   symbol:  current_mirror/current_mirror.sym # of pins=4
** sym_path: /foss/designs/CapiMagics/sch/current_mirror/current_mirror.sym
** sch_path: /foss/designs/CapiMagics/sch/current_mirror/current_mirror.sch
.subckt current_mirror Avdd B A Avss
*.PININFO Avdd:B Avss:B B:B A:B
M1 A A Avss Avss nfet_03v3 L=0.28u W=4u nf=1
M2 B A Avss Avss nfet_03v3 L=4u W=4u nf=1
M3 B B Avdd Avdd pfet_03v3 L=0.5u W=8u nf=1
M4 A A Avdd Avdd pfet_03v3 L=0.5u W=1.6u nf=1
.ends


* expanding   symbol:  lif/layer_input.sym # of pins=14
** sym_path: /foss/designs/CapiMagics/sch/lif/layer_input.sym
** sch_path: /foss/designs/CapiMagics/sch/lif/layer_input.sch
.subckt layer_input avdd avss Iext1 vout_1 nvout_1 Iext2 vout_2 nvout_2 Iext3 vout_3 nvout_3 vout_4 Iext4 nvout_4
*.PININFO avdd:B avss:B Iext1:I Iext2:I Iext3:I Iext4:I vout_1:O nvout_1:O vout_2:O nvout_2:O vout_3:O nvout_3:O vout_4:O
*+ nvout_4:O
x2 avdd avss Iext1 vout_1 nvout_1 neurona_input_current
x3 avdd avss Iext2 vout_2 nvout_2 neurona_input_current
x4 avdd avss Iext3 vout_3 nvout_3 neurona_input_current
x5 avdd avss Iext4 vout_4 nvout_4 neurona_input_current
.ends


* expanding   symbol:  lif/layer_output.sym # of pins=8
** sym_path: /foss/designs/CapiMagics/sch/lif/layer_output.sym
** sch_path: /foss/designs/CapiMagics/sch/lif/layer_output.sch
.subckt layer_output avdd avss Iext1 vout_1 nvout_1 vout_2 Iext2 nvout_2
*.PININFO avdd:B avss:B Iext1:I Iext2:I vout_1:O nvout_1:O vout_2:O nvout_2:O
x6 avdd avss Iext1 vout_1 nvout_1 neurona_input_current
x7 avdd avss Iext2 vout_2 nvout_2 neurona_input_current
.ends


* expanding   symbol:  stdp/stdp_lvs.sym # of pins=12
** sym_path: /foss/designs/CapiMagics/sch/stdp/stdp_lvs.sym
** sch_path: /foss/designs/CapiMagics/sch/stdp/stdp_lvs.sch
.subckt stdp_lvs avdd avss nvpre nvpost vpre vpost vb_itd vb_idep vb_itp vb_pot vw iout
*.PININFO avss:B avdd:B nvpost:B nvpre:B vpost:B vpre:B vb_idep:B vb_itd:B vb_itp:B vb_pot:B vw:B iout:O
M1 n1 vpot avdd avdd pfet_03v3 L=0.63u W=0.5u nf=1
M2 vw nvpost n1 avdd pfet_03v3 L=0.63u W=0.5u nf=1
M3 vw vpre n2 avss nfet_03v3 L=0.63u W=0.5u nf=1
M4 n2 vdep avss avss nfet_03v3 L=0.63u W=0.5u nf=1
M7 n4 n3 avdd avdd pfet_03v3 L=0.63u W=0.5u nf=1
M8 n3 nvpre vpot avdd pfet_03v3 L=0.63u W=0.5u nf=1
M9 n5 n5 avss avss nfet_03v3 L=0.63u W=0.5u nf=1
M12 n5 vpost vdep avss nfet_03v3 L=0.63u W=0.5u nf=1
M17 vpot vb_itp avdd avdd pfet_03v3 L=4.6u W=0.3u nf=1
MCM_1 n4 vb_pot avss avss nfet_03v3 L=2.8u W=0.61u nf=1
M16 n5 vb_idep avdd avdd pfet_03v3 L=2.8u W=10.2u nf=1
MCM_5 vdep vb_itd n6 avss nfet_03v3 L=10u W=0.5u nf=1
MCM_6 n6 vb_itd n7 avss nfet_03v3 L=10u W=0.5u nf=1
MCM_7 n7 vb_itd n8 avss nfet_03v3 L=10u W=0.5u nf=1
MCM_8 n8 vb_itd n9 avss nfet_03v3 L=10u W=0.5u nf=1
MCM_9 n9 vb_itd avss avss nfet_03v3 L=10u W=0.5u nf=1
x1[0] vdep avss unitcap
x1[1] vdep avss unitcap
x2[0] vw avss unitcap
x2[1] vw avss unitcap
x2[2] vw avss unitcap
x2[3] vw avss unitcap
x2[4] vw avss unitcap
x2[5] vw avss unitcap
x2[6] vw avss unitcap
x2[7] vw avss unitcap
x2[8] vw avss unitcap
x2[9] vw avss unitcap
x3[0] avdd vpot unitcap
x3[1] avdd vpot unitcap
M5 iout vw avdd avdd pfet_03v3 L=15u W=0.5u nf=1
.ends


* expanding   symbol:  Current_limit/Current-limit.sym # of pins=4
** sym_path: /foss/designs/CapiMagics/sch/Current_limit/Current-limit.sym
** sch_path: /foss/designs/CapiMagics/sch/Current_limit/Current-limit.sch
.subckt Current-limit i_SUM avdd ifwd avss
*.PININFO avdd:B ifwd:B i_SUM:B avss:B
M4 net1 net1 i_SUM avdd pfet_03v3 L=5u W=0.5u nf=1
M6 ifwd ifwd net1 avdd pfet_03v3 L=5u W=0.5u nf=1
M1 avss avss avss avss nfet_03v3 L=0.28u W=0.5u nf=1
.ends


* expanding   symbol:  lif/neurona_input_current.sym # of pins=5
** sym_path: /foss/designs/CapiMagics/sch/lif/neurona_input_current.sym
** sch_path: /foss/designs/CapiMagics/sch/lif/neurona_input_current.sch
.subckt neurona_input_current Vdd Vss Iext spike spike_neg
*.PININFO Vdd:B Vss:B Iext:B spike:O spike_neg:O
M1 spike_neg Iext Vdd Vdd pfet_03v3 L=0.28u W=0.22u nf=1
M2 spike_neg Iext Vss Vss nfet_03v3 L=0.28u W=0.22u nf=1
M3 spike/reset spike_neg Vdd Vdd pfet_03v3 L=0.28u W=0.22u nf=1
M4 spike/reset spike_neg Vss Vss nfet_03v3 L=0.28u W=0.22u nf=1
M7 spike spike_neg Vdd Vdd pfet_03v3 L=0.28u W=0.22u nf=1
M8 spike spike_neg GND GND nfet_03v3 L=0.28u W=0.22u nf=1
M5 Iext spike/reset Vss Vss nfet_03v3 L=50u W=1.25u nf=1
C1 Iext Vss 150f
.ends


* expanding   symbol:  stdp/unitcap.sym # of pins=2
** sym_path: /foss/designs/CapiMagics/sch/stdp/unitcap.sym
** sch_path: /foss/designs/CapiMagics/sch/stdp/unitcap.sch
.subckt unitcap tp bp
*.PININFO tp:B bp:B
XCdep tp bp cap_mim_2f0fF c_width=5e-6 c_length=5e-6
.ends

.GLOBAL GND
